US07790915B2
A 86.86 ml cyclohexane solution of sec-butyl lithium in a concentration of 1.01M was dropped into a 300 ml THF solution of 15.00 g (=67.49 mmol) of 2-(3-fluorophenyl)naphthalene at −70° C. After the dropping was finished, the reaction solution was stirred at the same temperature for 1 hour, added with a 150 ml THF solution of 10.88 g (=94.49 mmol) of 4-formylmorpholine through dropping and then slowly heated to room temperature. After being stirred for 18 hours, 25 ml of 6N HCl(aq) was dropped into the reaction solution, and then the reaction mixture was extracted thrice with toluene. The extract was washed with water and an aqueous solution of NaHCO3, and then dried with anhydrous MgSO4. After the solvent was evaporated under a reduced pressure, the obtained yellow solid of 16.83 g was purified with silica gel chromatography using toluene as the eluent to obtain a yellowish solid of 13.26 g, which was further recrystallized with toluene to obtain 10.09 g of 2-fluoro-4-naphthalene-2-yl-benzaldehyde as yellowish crystals.

reactant | sec-butyl lithium | C(C)(CC)[Li]
reactant | 2-(3-fluorophenyl)naphthalene | 67.49 mmol, 15.00 g | FC=1C=C(C=CC1)C1=CC2=CC=CC=C2C=C1 | C16H11F
reactant | 4-formylmorpholine | 94.49 mmol, 10.88 g | C(=O)N1CCOCC1 | C5H9NO2
reactant | HCl | 6N, 25 ml | Cl | ClH
solvent | THF | 150 ml | C1CCOC1 | C4H8O
solvent | THF | 300 ml | C1CCOC1 | C4H8O
solvent | cyclohexane | 86.86 ml | C1CCCCC1 | C6H12
product | 2-fluoro-4-naphthalene-2-yl-benzaldehyde | 10.09 g | FC1=C(C=O)C=CC(=C1)C1=CC2=CC=CC=C2C=C1 | C17H11FO
